US04892875
4-Benzhydrylhomopiperazine-1-ethanol (2.6 g) was reacted with diketene in the same manner as Reference Example 1-(2) to give 2-(4-benzhydrylhomopiperazin-1-yl)ethyl acetoacetate as an oil (2.7 g, 81.8%). IR(Neat): 1735, 1715 cm-1. NMR(CDCl3)δ: 1.6-1.9(2H, m), 2.26(3H, s), 2.5-2.9(10H, m), 3.40(2H, s), 4.20(2H, t, J=6), 4.57(1H, s), 7.1-7.5(10H, m).

reactant | 4-Benzhydrylhomopiperazine-1-ethanol | 2.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CCC1)CCO | C20H26N2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 2-(4-benzhydrylhomopiperazin-1-yl)ethyl acetoacetate | 2.7 g, 81.8% | C(CC(=O)C)(=O)OCCN1CCN(CCC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H30N2O3
